US06506754B1
Preparation of 6-(Azidomethyl)-1-(2-tetrahydropyranyl)indazole (7)
To a solution of 6-(bromomethyl)-1-(2-tetrahydropyranyl)indazole (4.0 g, 14 mmol) (6) in DMF (30 mL) was added sodium azide (6 g, 92 mmol) in one portion. The suspension was heated at 90° C. for 30 minutes and a yellow solution was formed. After cooling to room temperature, the reaction mixture was poured into water (100 mL) and extracted with ether (2×150 mL). Combined organic layers were washed with brine then dried (MgSO4). Evaporation of solvent gave an yellow oil which was purified by column chromatography to yield title compound (2.91 g, 83%). TLC Rf 0.31 (70:30 of hexane-ethyl acetate); MS (electrospray) 258 (M+1); 1H NMR (CDCl3) δ1.75 (m, 3H), 2.10 (m, 2H), 2.55 (m, 1H), 3.72 (m, 1H), 4.01 (m, 1H), 4.48 (s, 2H), 5.73 (dd, 1H, J=8.2, 2.8 Hz), 7.12 (dd, 1H, J=8.2, 0.8 Hz), 7.55 (s, 1H), 7.71 (d, 1H, J=8.2 Hz), 8.02 (s, 1H).

reactant | 6-(bromomethyl)-1-(2-tetrahydropyranyl)indazole | 14 mmol, 4.0 g | BrCC1=CC=C2C=NN(C2=C1)C1OCCCC1 | C13H15BrN2O
reactant | sodium azide | 92 mmol, 6 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 6-(Azidomethyl)-1-(2-tetrahydropyranyl)indazole | 2.91 g, 83% | N(=[N+]=[N-])CC1=CC=C2C=NN(C2=C1)C1OCCCC1 | C13H15N5O
